US08106215B2
2-Methyl-benzoxazole-4-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone with 2-methyl-benzoxazole-4-carboxylic acid which was synthesised by saponification of the corresponding methyl ester derivative (Goldstein S et al. J. of Heterocyclic. Chem. 1990, 27, 2, 335-336) with NaOH in a mixture water/MeOH.

reactant | [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone | NC[C@@H]1[C@H]2CC(C[C@H]2CN1C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C)C | C21H27N3OS
reactant | 2-methyl-benzoxazole-4-carboxylic acid | CC=1OC=2C(N1)=C(C=CC2)C(=O)O | C9H7NO3
reactant | NaOH | [OH-].[Na+]
solvent | water MeOH | O.CO
product | 2-Methyl-benzoxazole-4-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN([C@@H]([C@H]2C1)CNC(=O)C=1C=CC=C2C1N=C(O2)C)C(=O)C=2N=C(SC2C=2C=C(C=CC2)C)C | C30H32N4O3S
